US09085555B2
B. (2S,4S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-cyano-pyrrolidine-1-carboxylic acid tert-butyl ester
To a mixture of (2S,4S)-4-cyano-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (700 mg, 2.91 mmol), 3-chloro-2-fluorobenzylamine (558 mg, 3.50 mmol), HBTU (1.66 g, 4.37 mmol) in DMF (15 mL) was added DIPEA (1.5 mL, 8.74 mmol) and the resolution mixture was stirred at RT under nitrogen for 48 h. The mixture was poured in water and extracted with EtOAc (2×). The combined organic extracts were washed with water (1×), dried (Na2SO4), filtered and concentrated. The crude material was purified by flash column chromatography (c-hexane to c-hexane/EtOAc 1:1) to give the desired compound. TLC, Rf (c-hexane/EtOAc 1:1)=0.40; MS: 404.0 [M+Na]+, 380.0 [M−H]−, tR (HPLC conditions a): 3.45 min.

reactant | (2S,4S)-4-cyano-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 2.91 mmol, 700 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)C#N)C(=O)O | C11H16N2O4
reactant | 3-chloro-2-fluorobenzylamine | 3.50 mmol, 558 mg | ClC=1C(=C(CN)C=CC1)F | C7H7ClFN
reactant | HBTU | 4.37 mmol, 1.66 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 8.74 mmol, 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (2S,4S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-cyano-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)C#N)C(NCC1=C(C(=CC=C1)Cl)F)=O | C18H21ClFN3O3
